US04929549
5-Methoxycarbonylthieno[2,3-b]thiophene-2-sulfonamide (0.83 g., 3 mmoles) and 2,3-dihydroxypropylamine (1.37 g., 15 mmoles) were dissolved in hot methanol and refluxed for 48 hours. The reaction was worked up by evaporating the methanol in vacuo. Water (7 mL) was added followed by the dropwise addition of conc. HCl until strongly acidic (~1.8 pH). The product crystallized out and was collected, washed with water and dried to give 0.90 g of crude product. Recrystallization from nitromethane gave 0.73 g of 5-(N-2,3-dihydroxypropylcarbamoyl)thieno[2,3-b]thiophene-2-sulfonamide, m.p. 117°-118° C.

reactant | 5-Methoxycarbonylthieno[2,3-b]thiophene-2-sulfonamide | 3 mmoles, 0.83 g | COC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N | C8H7NO4S3
reactant | 2,3-dihydroxypropylamine | 15 mmoles, 1.37 g | OC(CN)CO | C3H9NO2
solvent | methanol | CO | CH4O
product | 5-(N-2,3-dihydroxypropylcarbamoyl)thieno[2,3-b]thiophene-2-sulfonamide | 0.73 g | OC(CNC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N)CO | C10H12N2O5S3
